US08431605B2
b) 5-Benzyl-oxazol-2-ylamine
A mixture of 2-bromo-3-phenylpropionaldehyde (14.2 g, crude from above) and urea (7.2 g, 0.12 mol) were heated to reflux for 15 hours in 200 mL of ethanol. The solvent was evaporated to dryness and the residue was diluted with dichloromethane (250 mL) and then washed with sodium hydroxide (10% aqueous solution, 100 mL) and water (50 mL). The organic layer was extracted three times with hydrochloric acid (5% aqueous solution, 250 mL). The combined aqueous layers were adjusted to between pH 9 to 10 with a 10% aqueous solution of sodium hydroxide and then extracted three times with dichloromethane (300 mL). The organic layer was dried over sodium sulfate, evaporated to dryness, and purified by silica gel column chromatography to give a pale yellow solid. (1.6 g, 9.2 mmol, 9.2% from 3-phenyl-propionaldehyde). ESI-MS m/z calc. 174.1. found 175.1 1H NMR (CDCl3) (δ 7.32-7.22 (m, 5H), 6.39 (s, 1H), 4.72 (bs, 2H), 3.84 (s, 2H).

reactant | 2-bromo-3-phenylpropionaldehyde | 14.2 g | BrC(C=O)CC1=CC=CC=C1 | C9H9BrO
reactant | urea | 0.12 mol, 7.2 g | NC(=O)N | CH4N2O
reactant | 3-phenyl-propionaldehyde | C1(=CC=CC=C1)CCC=O | C9H10O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-Benzyl-oxazol-2-ylamine | C(C1=CC=CC=C1)C1=CN=C(O1)N | C10H10N2O
